US08053461B2
4-fluoro-3-nitrobenzoic acid (1 equivalent) was dissolved in ethanol (5.3 equivalents), and concentrated sulfuric acid (0.25 equivalent) was added thereto, and the resulting mixture was heated under reflux for 5 hours. After cooling the reaction mixture, the reaction mixture was concentrated under reduced pressure until the volume was reduced to about half the initial value. The resulting mixture was then neutralized by adding sodium carbonate and was subjected to extraction with ether three times. The obtained extracted liquid was washed with saturated brine and then with water, and the ether layer was dried over anhydrous sodium sulfate. The resulting layer was then evaporated to dryness under reduced pressure, whereby ethyl 4-fluoro-3-nitrobenzoate was obtained.

reactant | 4-fluoro-3-nitrobenzoic acid | 1 equivalent | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | ethanol | 5.3 equivalents | C(C)O | C2H6O
reactant | sulfuric acid | 0.25 equivalent | S(O)(O)(=O)=O | H2O4S
product | ethyl 4-fluoro-3-nitrobenzoate | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
